US08236801B2
A.4.3 Synthesis of benzothiazole-7-carboxylic acid methyl ester
Isoamyl nitrite (22.0 mmol) is added to a solution of 2-amino-benzothiazole-7-carboxylic acid methyl ester (10.1 mmol) in THF (29 mL). The mixture is heated to reflux for 4 h, the solvents are removed in vacuo and the residue is purified by flash chromatography (gradient: heptane to EtOAc/heptane 4/6) to give the desired product. LC-MS: tR=0.85 min; [M+H]+=194.0.

reactant | Isoamyl nitrite | 22.0 mmol | N(=O)OCCC(C)C | C5H11NO2
reactant | 2-amino-benzothiazole-7-carboxylic acid methyl ester | 10.1 mmol | COC(=O)C1=CC=CC=2N=C(SC21)N | C9H8N2O2S
solvent | THF | 29 mL | C1CCOC1 | C4H8O
product | benzothiazole-7-carboxylic acid methyl ester | COC(=O)C1=CC=CC=2N=CSC21 | C9H7NO2S
